US06635638B2
3-(2,3-Dihydro-benzofuran-5-yl)-2-pyridin-2-yl-1,2,3,4-tetrahydro-pyrrolo[3,4-b]quinolin-9-one (#129)
3-(2,3-dihydro-5-benzofuranyl)-1,2,3,4-tetrahydro-9H-pyrrolo[3,4-b]quinolin-9-one HCl (0.30 g, 0.88 mmol) and 2-bromo-pyridine (2 mL), Pd2dba3 (0.23 g, 0.25 mmol), BINAP (0.47 g, 0.75 mmol) and NaOtBu (0.66 g, 6.87 mmol) were stirred in 1,4-dioxane (4 mL) at 90° C. for 1 hour. The resulting mixture was concentrated and then filtered on a plug of Celite with CH2Cl2. Purification by preparative TLC (5% CH3OH/CH2Cl2) yielded the title product as a yellow solid.

reactant | 3-(2,3-dihydro-5-benzofuranyl)-1,2,3,4-tetrahydro-9H-pyrrolo[3,4-b]quinolin-9-one HCl | 0.88 mmol, 0.30 g | Cl.O1CCC2=C1C=CC(=C2)C2NCC1=C2NC=2C=CC=CC2C1=O
reactant | 2-bromo-pyridine | 2 mL | BrC1=NC=CC=C1 | C5H4BrN
reactant | BINAP | 0.75 mmol, 0.47 g | C=1C=CC(=CC1)P(C=2C=CC=CC2)C3=CC=C4C=CC=CC4=C3C5=C6C=CC=CC6=CC=C5P(C=7C=CC=CC7)C=8C=CC=CC8 | C44H32P2
reactant | NaOtBu | 6.87 mmol, 0.66 g | CC(C)(C)[O-].[Na+]
solvent | 1,4-dioxane | 4 mL | O1CCOCC1 | C4H8O2
catalyst | Pd2dba3 | 0.25 mmol, 0.23 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 3-(2,3-Dihydro-benzofuran-5-yl)-2-pyridin-2-yl-1,2,3,4-tetrahydro-pyrrolo[3,4-b]quinolin-9-one | O1CCC2=C1C=CC(=C2)C2N(CC1=C2NC=2C=CC=CC2C1=O)C1=NC=CC=C1 | C24H19N3O2
